US07816531B2
Synthesis of 1,3-bis(3-bromophenyl)propan-2-ol
7.6 g (200 mmol) of sodium tetrahydridoborate were added at 0° C. to a solution of 36.8 g (100 mmol) of bis(3-bromobenzyl)ketone in a mixture of 500 ml of THF, 200 ml of isopropanol and 3 ml of acetic acid, and the mixture was stirred at 0° C. for a further 3 h. The ice bath was subsequently removed, and the mixture was stirred at room temperature for a further 12 h. After addition of 300 ml of saturated ammonium chloride solution, the organic phase was separated off, and the aqueous phase was extracted twice with 100 ml of dichloromethane. The combined organic phases were washed once with 500 ml of saturated sodium chloride solution and then freed from the solvent mixture in vacuo, giving 34.9 g (94 mmol), corresponding to 94.3% of theory, of the product in the form of an oil, 97% according to 1H-NMR, which were reacted further without purification.

reactant | sodium tetrahydridoborate | 200 mmol, 7.6 g | [BH4-].[Na+]
reactant | bis(3-bromobenzyl)ketone | 100 mmol, 36.8 g | BrC=1C=C(CC(=O)CC2=CC(=CC=C2)Br)C=CC1 | C15H12Br2O
reactant | isopropanol | 200 ml | C(C)(C)O | C3H8O
reactant | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
solvent | THF | 500 ml | C1CCOC1 | C4H8O
product | 1,3-bis(3-bromophenyl)propan-2-ol | BrC=1C=C(C=CC1)CC(CC1=CC(=CC=C1)Br)O | C15H14Br2O
